US04699926
A mixture of 2,3-dichloro-4-butyrylphenol (69.9 g, 0.30 mole), potassium carbonate (75 g, 0.54 mole) and ethyl 4-bromobutyrate (87.8 g, 0.45 mole) in N,N-dimethylformamide (900 ml of sieve-dried material) were stirred and heated at 55°-60° C. for 16.5 hours. The mixture was then treated with 10 normal sodium hydroxide solution (120 ml) and water (600 ml) and stirring and heating at 100° C. maintained for 2 hours. The solution was cooled and poured into ice water (4 liters) containing concentrated hydrochloric acid (250 ml). The solid that separated was removed by filtration, washed with water and dried. The product (88 g) was recrystallized from butyl chloride (500 ml) to give 78.6 g of 4-(2,3-dichloro-4-butyrylphenoxy)butyric acid, m.p. 111°-113° C.

reactant | 2,3-dichloro-4-butyrylphenol | 0.30 mole, 69.9 g | ClC1=C(C=CC(=C1Cl)C(CCC)=O)O | C10H10Cl2O2
reactant | potassium carbonate | 0.54 mole, 75 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutyrate | 0.45 mole, 87.8 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | sodium hydroxide | 120 ml | [OH-].[Na+]
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | N,N-dimethylformamide | 900 ml | CN(C=O)C | C3H7NO
solvent | water | 600 ml | O | H2O
product | 4-(2,3-dichloro-4-butyrylphenoxy)butyric acid | 78.6 g | ClC1=C(OCCCC(=O)O)C=CC(=C1Cl)C(CCC)=O | C14H16Cl2O4
